US07001897B2
To a solution of (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid p-nitrobenzyl ester (1.93 g, 5.48 mmol) in 1,4-dioxane (20 ml) was added a solution of 4N hydrogen chloride in 1,4-dioxane (20 ml) in an ice bath, and the mixture was stirred at room temperature overnight. After checking the completion of the reaction, diethyl ether was added thereto the reaction mixture was stirred for 30 minutes and filtered, and the obtained residue was washed with diethyl ether and dried to give (isopropylamino)acetic acid p-nitrobenzyl ester hydrochloride (1.50 g, yield 95%) as white crystals.

reactant | (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid p-nitrobenzyl ester | 5.48 mmol, 1.93 g | [N+](=O)([O-])C1=CC=C(COC(CN(C(C)C)C(=O)OC(C)(C)C)=O)C=C1 | C17H24N2O6
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (isopropylamino)acetic acid p-nitrobenzyl ester hydrochloride | 1.50 g, yield 95% | Cl.[N+](=O)([O-])C1=CC=C(COC(CNC(C)C)=O)C=C1 | InChI=1S/C12H16N2O4.ClH/c1-9(2)13-7-12(15)18-8-10-3-5-11(6-4-10)14(16)17;/h3-6,9,13H,7-8H2,1-2H3;1H
